US09120747B2
B. (2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxy-4-[(1-hydroxy-1H-[1,2,3]triazole-4-carbonyl)-amino]pentanoic Acid Ethyl Ester
(2R,4R)-5-(4-Bromo-phenyl)-2-hydroxy-4-[(1-hydroxy-1H-1,2,3-triazole-4-carbonyl)-amino]-pentanoic acid ethyl ester (120 mg, 281 μmol) and 3-chlorophenylboronic acid, pinacol ester (120 mg, 506 μmol) were combined with K2CO3 (116 mg, 842 μmol), EtOH (3 mL), and water (0.8 mL). SilicaCat® DPP-Pd (280 μmol/g loading; 1 mg, 28 μmol) was then added and the mixture was heated at 90° C. and the reaction monitored by LC/MS. The reaction was stopped after 2 hours, and the mixture was filtered, concentrated and purified (C18 reverse phase column; 30-70% MeCN in water with 0.05% TFA). EtOH (5.0 mL, 86 mmol) and 4 M HCl in dioxane (1.5 mL, 6.0 mmol) was added and the resulting mixture was stirred at room temperature for 40 minutes, then concentrated and purified (C18 reverse phase column; 30-90% MeCN in water with 0.05% TFA) to yield the title compound (20 mg; purity 95%). MS m/z [M+H]+ calc'd for C22H23ClN4O5, 459.14. found 459.4.

reactant | (2R,4R)-5-(4-Bromo-phenyl)-2-hydroxy-4-[(1-hydroxy-1H-1,2,3-triazole-4-carbonyl)-amino]-pentanoic acid ethyl ester | 281 μmol, 120 mg | C(C)OC([C@@H](C[C@@H](CC1=CC=C(C=C1)Br)NC(=O)C=1N=NN(C1)O)O)=O | C16H19BrN4O5
reactant | 3-chlorophenylboronic acid | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | K2CO3 | 842 μmol, 116 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 6.0 mmol, 1.5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd | 28 μmol, 1 mg | [Pd] | Pd
solvent | water | 0.8 mL | O | H2O
solvent | EtOH | 3 mL | CCO | C2H6O
solvent | EtOH | 86 mmol, 5.0 mL | CCO | C2H6O
product | (2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxy-4-[(1-hydroxy-1H-[1,2,3]triazole-4-carbonyl)-amino]pentanoic Acid Ethyl Ester | 20 mg | C(C)OC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)NC(=O)C=1N=NN(C1)O)O)=O | C22H23ClN4O5
